US20010021775A1
To a solution of 3-amino-4-hydroxybenzonitrile (8.2 g, 61 mmol) in THF (200 mL) was added 1,1′-carbonyldiimidazole (11.6g, 72 mmol) and the resulting mixture was stirred at room temperature for 16 hours. The reaction was then quenched with 1N HCl (50 mL), and the mixture was extracted with EtOAc (200 mL). The organic layer was washed with brine, dried over MgSO4, and concentrated to give 6-cyanobenzoxazolinone (9.8 g, 100%). 1H NMR (CDCl3) δ7.49 (dd, J=8.4 Hz, J=1.5 Hz, 1H), 7.34 (d, J=1.5 Hz, 1H), 7.31 (d, J=8.4 Hz, 1H), 7.15 (d, J=0.9 Hz, 1H).

reactant | 3-amino-4-hydroxybenzonitrile | 61 mmol, 8.2 g | NC=1C=C(C#N)C=CC1O | C7H6N2O
reactant | 1,1′-carbonyldiimidazole | 72 mmol, 11.6g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-cyanobenzoxazolinone | 9.8 g, 100% | C(#N)C1=CC2=C(NC(O2)=O)C=C1 | C8H4N2O2
